US03957782
e. 6-Ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carbonyl chloride
40 g. of 6-ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid (0.17 mol.) and 300 ml. of thionyl chloride are refluxed for 21/2 hours. After removal of the excess thionyl chloride under vacuum, the 6-ethoxy-1-ethyl-1 H- pyrazolo[3,4-b]-pyrazine-5-carbonyl chloride is treated with hexane, filtered off and then dried at 60°, yield 41.5 g. (96%), m.p. 86°-87°.

reactant | 6-ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid | 0.17 mol | C(C)OC1=C(N=C2C(=N1)N(N=C2)CC)C(=O)O | C10H12N4O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-Ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carbonyl chloride | C(C)OC1=C(N=C2C(=N1)N(N=C2)CC)C(=O)Cl | C10H11ClN4O2
